US04529533
2-(2,6-di-t-butyl-4-methylphenoxy)-6,8-dimethyl-4H-1,3,2-benzodioxaphosphorin
Other cyclic phosphites prepared as described above were 2-[4-methyl-2,6-bis(1,1-dimethylethyl)phenoxy]-6-methyl-4H-1,3,2-benzodioxaphosphorin, melting point 117°-123° C., molecular weight 486, by the reaction of 4-methyl-6-hydroxymethylphenol with 2,6-di-t-butyl-4-methylphenylphosphorodichloridite; 2-[2,4,6-tris(1,1-dimethylethyl)phenoxy]-6,8-bis(1,1-dimethylethyl)-4H-1,3,2-benzophosphorin, melting point 166°-255° C., molecular weight 526, by the reaction of 2,4,6-di-t-butyl-6-hydroxymethylphenol with 2,4,6-tri-t-butyl-phenylphosphorodichloridite; and 2-[2,4,6-tris(1,1-dimethylethyl)phenoxy]-8-(1,1-dimethylethyl)-4H-1,3,2-benzodioxaphosphorin, melting point 120°-127° C., molecular weight 470, by the reaction of 2-t-butyl-6-hydroxymethylphenol and 2,4,6-tri-t-butyl-phenylphosophorodichloridite. The structures were confirmed by Nuclear Magnetic Resonance and Infra-Red Analysis.

reactant | 2-[4-methyl-2,6-bis(1,1-dimethylethyl)phenoxy]-6-methyl-4H-1,3,2-benzodioxaphosphorin | CC1=CC(=C(OP2OC3=C(CO2)C=C(C=C3)C)C(=C1)C(C)(C)C)C(C)(C)C | C23H31O3P
reactant | 4-methyl-6-hydroxymethylphenol | CC1=CC=C(C(=C1)CO)O | C8H10O2
reactant | 2,6-di-t-butyl-4-methylphenylphosphorodichloridite | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)P([O-])(Cl)Cl
reactant | 2,4,6-tri-t-butyl-phenylphosphorodichloridite | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)P([O-])(Cl)Cl
reactant | 2-[2,4,6-tris(1,1-dimethylethyl)phenoxy]-8-(1,1-dimethylethyl)-4H-1,3,2-benzodioxaphosphorin | CC(C)(C)C1=C(OP2OC3=C(CO2)C=CC=C3C(C)(C)C)C(=CC(=C1)C(C)(C)C)C(C)(C)C | C29H43O3P
reactant | 2-t-butyl-6-hydroxymethylphenol | C(C)(C)(C)C1=C(C(=CC=C1)CO)O | C11H16O2
product | 2-(2,6-di-t-butyl-4-methylphenoxy)-6,8-dimethyl-4H-1,3,2-benzodioxaphosphorin | C(C)(C)(C)C1=C(OP2OC3=C(CO2)C=C(C=C3C)C)C(=CC(=C1)C)C(C)(C)C | C24H33O3P
